US08957203B2
A solution of tert-butyl ((2S,3R)-1-((2S,4R)-2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-hydroxypyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate (9.5 g, 15.21 mmol) in DCE (2500 ml) was sparged with nitrogen for 30 min. and then Hoveyda-Grubbs Catalyst 2nd Generation (0.574 g, 0.912 mmol) was added and the reaction heated to 80° C. for 2 hrs then cooled down to 45° C. and stirred for 2 days. The reaction was concentrated and purified by flash chromatography on silica gel (20-60% Acetone in hexanes) to give the product tert-Butyl((2R,6S,7R,13aS,14aR,16aS,Z)-14a-((cyclopropylsulfonyl)carbamoyl)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate (7 g). MS: MS m/z 597.35 (M++1).

reactant | tert-butyl ((2S,3R)-1-((2S,4R)-2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-hydroxypyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | 15.21 mmol, 9.5 g | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)O)C([C@H]([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O | C30H48N4O8S
solvent | DCE | 2500 ml | ClCCCl | C2H4Cl2
catalyst | Hoveyda-Grubbs Catalyst 2nd Generation | 0.912 mmol, 0.574 g | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
product | tert-Butyl((2R,6S,7R,13aS,14aR,16aS,Z)-14a-((cyclopropylsulfonyl)carbamoyl)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | 7 g | C(C)(C)(C)OC(N[C@H]1[C@@H](CC(CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)O)=O)(C2)C(NS(=O)(=O)C2CC2)=O)C)C)=O | C28H44N4O8S
